US04710504
Step B: Preparation of 2-(3-benzo[b]furanyl)ethylamine
A solution of 3.97 g (0.025 mole) of 3-cyanomethylbenzo[b]furan in 200 mL of diethyl ether was slowly added to a refluxing suspension of 3.84 g (0.1 mole) of lithium aluminum hydride in 400 mL of ether. The reaction was heated 3 hours., cooled and water was slowly added. The suspension was filtered through a pad of filter aid and the filtrate was evaporated to give 3.2 g of oily product. The hydrochloride salt has m.p. 183°-185° C.

reactant | 3-cyanomethylbenzo[b]furan | 0.025 mole, 3.97 g | C(#N)CC=1C2=C(OC1)C=CC=C2 | C10H7NO
reactant | lithium aluminum hydride | 0.1 mole, 3.84 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
solvent | ether | 400 mL | CCOCC | C4H10O
product | 2-(3-benzo[b]furanyl)ethylamine | 3.2 g | O1C2=C(C(=C1)CCN)C=CC=C2 | C10H11NO
